US07456176B2
7-(2-chloro-5-methoxy-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamine (0.33 mmol, 1.0 equiv), 4-bromo-N-methyl-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide (0.5 mmol, 1.5 equiv), Cs2CO3 (0.99 mmol, 3.0 equiv), Pd2(dba)3 (0.033 mmol, 0.10 equiv), and Xantphos (0.066 mmol, 0.2 equiv) were dissolved in 10 mL dioxane and refluxed at 100° C. under an argon atmosphere for 18 h. The reaction was cooled to room temperature and filtered. The filtrate was dissolved in EtOAc and washed with saturated NaHCO3 and brine, and the organic phase was dried (Na2SO4). The organics were concentrated under reduced pressure to afford residue that was purified by reverse phase HPLC using a 10-50-75 gradient over 30 minutes, and again concentrated under reduced pressure to afford 4-[7-(2-chloro-5-methoxy-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamino]-N-methyl-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide, as a tan residue (168 mg, 90% yield). Rf=0.50 (9:1 DCM/MeOH) MS (ES+) m/z=567. LC retention time 2.82 min.

reactant | 7-(2-chloro-5-methoxy-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamine | 0.33 mmol, 1.0 equiv | ClC1=C(C=C(C=C1)OC)C1=CC2=C(N=C(N=N2)N)C(=C1)C | C15H13ClN4O
reactant | 4-bromo-N-methyl-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide | 0.5 mmol, 1.5 equiv | BrC1=CC=C(C=C1)S(=O)(=O)N(CCN1CCCC1)C | C13H19BrN2O2S
reactant | Cs2CO3 | 0.99 mmol, 3.0 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Xantphos | 0.066 mmol, 0.2 equiv | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.033 mmol, 0.10 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[7-(2-chloro-5-methoxy-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamino]-N-methyl-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide | ClC1=C(C=C(C=C1)OC)C1=CC2=C(N=C(N=N2)NC2=CC=C(C=C2)S(=O)(=O)N(CCN2CCCC2)C)C(=C1)C | C28H31ClN6O3S
